US07993633B2
A 2 L reaction flask was charged with (R)-1-cyclohexylethanol (980 g, synthesized as above), acetic anhydride (1 Kg), and p-toluene sulphonic acid (0.4 g), and heated at 30-40° C. for 6 hours. The reaction mixture was then transferred into a separatory funnel and washed twice in 200 mL water followed by once in 200 mL 10% sodium hydroxide (aOH). The resulted organic layer was distilled at 5-10 mmHg to provide (R)-1-cyclohexylethyl acetate (1.3 Kg) (optical rotation: [α]D+2.59°; optical purity: 80.5% ee ).

reactant | (R)-1-cyclohexylethanol | 980 g | C1(CCCCC1)[C@@H](C)O | C8H16O
reactant | acetic anhydride | 1 Kg | C(C)(=O)OC(C)=O | C4H6O3
catalyst | p-toluene sulphonic acid | 0.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (R)-1-cyclohexylethyl acetate | 1.3 Kg | C(C)(=O)O[C@H](C)C1CCCCC1 | C10H18O2
